US05843999
2-(4-Methylsulfonylphenyl)-1-phenylazulene (Compound 1)
Methyl 2-(4-methylsulfonylphenyl)-3-phenylazulene-1-carboxylate(0.13 g) was treated with 100% phosphoric acid (5.0 ml). After stirring for 10 min at 120° C., the reaction mixture was poured into ice-water, followed by extracted with EtOAc. The combined EtOAc extracts were washed with water and brine, dried over Na2SO4 and concentrated. The crude product was purified by SiO2 column chromatography (benzenee/Et2O, 50: 1) to give the title compound (0.10 g) as violet crystals; mp 139°-140° C.

reactant | Methyl 2-(4-methylsulfonylphenyl)-3-phenylazulene-1-carboxylate | 0.13 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=CC=CC2=C1C1=CC=CC=C1)C(=O)OC | C25H20O4S
reactant | phosphoric acid | 5.0 ml | P(O)(O)(O)=O | H3O4P
product | 2-(4-Methylsulfonylphenyl)-1-phenylazulene | 0.10 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=CC=CC2=C1)C1=CC=CC=C1 | C23H18O2S
